* C:\users\jose\Documents\tfg2\A7F2-42A7\Super-regen2.asc
R1 N002 N006 540k
C1 N006 0 10µ
Q1 N004 N006 N007 0 2N2222
R4 N011 0 2.2k
C2 N011 0 9n
L1 N007 N011 100µ
L2 N002 N004 200n
C3 N002 N004 47p
V1 N008 0 5
R5 VCC N008 10
C4 N004 N007 30p
R8 VCC N002 480
C5 N002 0 100n
V2 N001 0 SINE(0 100m 37meg)
R2 N005 N003 1k
C6 N005 N004 5p
S1 N001 N003 vsw 0 SW
V3 vsw 0 PULSE(0 9 0 0 0 {1/(2*modfrec)} {1/modfrec}) Rser=10
Q2 N010 N009 0 0 2N2222
R3 vcc N010 2.2k
R6 N010 N009 470k
C7 N012 N011 100n
R7 N009 N012 1k
C8 N009 0 2.2n
.model NPN NPN
.model PNP PNP
.lib C:\users\jose\AppData\Local\LTspice\lib\cmp\standard.bjt
.model sw sw(ron=.1 roff=10meg vt = 4.9)
.param modfrec 10k
.tran 0 {5/modfrec} 0 {.1/40meg}
.backanno
.end
